US04423241
Preparation of 2,3,6-Trichlorobenzylideneaminooxyacetic Acid
A warm solution of 3.0 gm. (0.014 mole) of 2,3,6-trichlorobenzaldehyde in 50 ml. of ethanol was stirred into a warm solution of 1.6 gm. (0.015 equiv.) of carboxymethoxylamine hemihydrochloride and 0.7 gm. (0.008 mole) of anhyd. sodium acetate in 50 ml. water. Heating on the steam bath was maintained for one-half hour: then the reaction mixture was evaporated by 3/4 volume and was cooled. The solid present was removed by filtration, washed with water and dried in vacuum dessicator over phosphorus pentoxide to obtain 3.9 gm. (96.5%) of crude product melting at 159°-160° C. This material, twice recrystallized from aqueous-isopropyl alcohol, melted at 160°-161° C.

reactant | 2,3,6-trichlorobenzaldehyde | 0.014 mole | ClC1=C(C=O)C(=CC=C1Cl)Cl | C7H3Cl3O
reactant | ethanol | C(C)O | C2H6O
reactant | carboxymethoxylamine hemihydrochloride | 0.015 equiv. | Cl.C(=O)(O)CON.C(=O)(O)CON
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2,3,6-Trichlorobenzylideneaminooxyacetic Acid | ClC(C(=O)O)ON=CC1=CC(=CC=C1Cl)Cl | C9H6Cl3NO3
